US04492692
2-Fluoroimidazole was alkylated with t-butyl-4-chlorobutyrate, using the same procedure as that for the starting material of Example 74, to give 1-(3-t-butoxycarbonylpropyl)-2-fluoroimidazole.

reactant | 2-Fluoroimidazole | FC=1NC=CN1 | C3H3FN2
reactant | t-butyl-4-chlorobutyrate | C(C)(C)(C)OC(CCCCl)=O | C8H15ClO2
product | 1-(3-t-butoxycarbonylpropyl)-2-fluoroimidazole | C(C)(C)(C)OC(=O)CCCN1C(=NC=C1)F | C11H17FN2O2
